US09376454B2
Step 2. Synthesis of (R)-3-(2-(3,4-dihydroxyphenyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
tert-Butyl 3-((2R)-2-(2-(3,4-dihydroxyphenyl)acetamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate (200 mg) was mixed with 3 ml of 3N HCl and the reaction mixture was heated at reflux for 1 hr. The reaction solution was cooled and washed with dichloromethane three times. The crude product in the aqueous phase was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 358 (MH)+.

reactant | tert-Butyl 3-((2R)-2-(2-(3,4-dihydroxyphenyl)acetamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate | 200 mg | OC=1C=C(C=CC1O)CC(=O)N[C@@H](CC=1C(=C(C(=O)OC(C)(C)C)C=CC1)OC)B1OC2(C3C(C(CC2O1)C3)(C)C)C | C32H42BNO8
reactant | HCl | 3N, 3 ml | Cl | ClH
product | (R)-3-(2-(3,4-dihydroxyphenyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | OC=1C=C(C=CC1O)CC(=O)N[C@@H]1B(OC2=C(C1)C=CC=C2C(=O)O)O | C17H16BNO7
